* Schematics Netlist *



D_D2         $N_0001 $N_0002 D1N4002 
C_C1         $N_0003 $N_0001  10u  
R_R1         $N_0001 $N_0002  10K  
V_V1         $N_0003 $N_0002  
+SIN 0 10V 5kHz 0 0 0
