* Schematics Netlist *



D_D3         $N_0001 $N_0002 D1N4002 
R_R1         $N_0003 $N_0001  4k  
V_Vs         $N_0003 0 5V
D_D4         $N_0001 $N_0004 D1N4002 
V_Vb         $N_0004 0 0V
V_Va         $N_0002 0 5V
