* Schematics Netlist *



R_R2         $N_0002 $N_0001  1k  
V_V2         $N_0002 0 DC 0 
+SIN 0 10V 1kHz 0 0 0
D_D9         $N_0001 $N_0003 D1N4002 
D_D10         0 $N_0004 D1N4002 
V_V6         $N_0003 0 0.7V
V_V7         $N_0004 $N_0001 0.7V
