* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
D_D2         $N_0003 $N_0001 D1N4002 
D_D1         $N_0001 $N_0003 D1N4002 
V_V1         $N_0002 $N_0003  
+SIN 0 10V 1k 0 0 0
