* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
V_V3         $N_0003 $N_0004 5V
V_V2         $N_0005 $N_0003 5V
D_D1         $N_0001 $N_0005 D1N4002 
D_D2         $N_0004 $N_0001 D1N4002 
V_V1         $N_0002 $N_0003 DC 0 
+SIN 0 10V 2K 0 0 0
